US07790747B2
Using general procedure E, tert-butoxycarbonylamino-(2,5-difluorophenyl)-acetic acid (1.84 g, 6.40 mmol) and cyclohexylamine (730 μL, 634 mg, 6.40 mmol) afforded [cyclohexylcarbamoyl-(2,5-difluorophenyl)-methyl]-carbamic acid tert-butyl ester (2.12 g, 90%).

reactant | tert-butoxycarbonylamino-(2,5-difluorophenyl)-acetic acid | 6.40 mmol, 1.84 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=C(C=CC(=C1)F)F | C13H15F2NO4
reactant | cyclohexylamine | 6.40 mmol, 730 μL, 634 mg | C1(CCCCC1)N | C6H13N
product | [cyclohexylcarbamoyl-(2,5-difluorophenyl)-methyl]-carbamic acid tert-butyl ester | 2.12 g, 90% | C(C)(C)(C)OC(NC(C1=C(C=CC(=C1)F)F)C(NC1CCCCC1)=O)=O | C19H26F2N2O3
